US04927838
A solution of pentyl magnesium bromide (2M; 83 mL) was added with stirring to a chilled (-5° C.) solution of 5-methoxy-1-indenone (24.33 g) in dry tetrahydrofuran (100 mL) and the mixture was stirred at room temperature for 1.5 hours. A few chips of ice were added to destroy excess reagent and after the solvents had been removed under reduced pressure, the residue was taken up in a mixture of dichloromethane (250 mL) and 2N hydrochloric acid and stirred at room temperature for 3 hours. The separated aqueous phase was extracted with dichloromethane (150 mL) then the combined organic layers were dried (MgSO4) and evaporated to provide 30 g of crude product as an oil. Purification of the material by HPLC (dichoromethane-hexane; 2:5) gave 21.62 g of 6-methoxy-3-pentyl-1H-indene as an oil

reactant | pentyl magnesium bromide | 2M, 83 mL | C(CCCC)[Mg]Br
reactant | 5-methoxy-1-indenone | 24.33 g | COC=1C=C2C=CC(C2=CC1)=O | C10H8O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 6-methoxy-3-pentyl-1H-indene | 21.62 g | COC1=CC=C2C(=CCC2=C1)CCCCC | C15H20O
